US06506901B2
Step C: [4-(t-Butyl-diphenyl-silanyloxy)-2-fluoro-benzyl]-carbamic Acid tert-Butyl Ester
A solution of 4-(t-butyl-diphenyl-silanyloxy)-2-fluoro-benzylamine (1.66 g, 4.38 mmol) and ditertbutyldicarbonate (1.05 g, 4.82 mmol) in 9 mL THF was stirred at ambient temperature for 2 hours. When the reaction was finished, the THF was removed in vacuo and the residue was partitioned with Et2O and phosphoric acid (aqueous 20% solution). The organic phase was washed with saturated sodium bicarbonate, brine and dried (Na2SO4). The solvent evaporated in vacuo to give the product (2.1 g).

reactant | 4-(t-butyl-diphenyl-silanyloxy)-2-fluoro-benzylamine | 4.38 mmol, 1.66 g | C(C)(C)(C)[Si](OC1=CC(=C(CN)C=C1)F)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H26FNOSi
reactant | ditertbutyldicarbonate | 4.82 mmol, 1.05 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 9 mL | C1CCOC1 | C4H8O
product | [4-(t-Butyl-diphenyl-silanyloxy)-2-fluoro-benzyl]-carbamic Acid tert-Butyl Ester | 2.1 g | C(C)(C)(C)OC(NCC1=C(C=C(C=C1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)F)=O | C28H34FNO3Si
